US05116404
SYNTHESIS EXAMPLE 20 (2,4-dinitro-6-trifluoromethylphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound No. 5.65 of this invention)
1.0 g of 6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione was added to 10 ml of dimethylformamide, followed by addition of 0.65 g of sodium hydride (purity: 55%) with stirring at 0° C. The mixed solution was stirred at room temperature for 30 minutes, then cooled to 0° C. and added dropwise with a 5 ml dimethylformamide solution of 1.89 g of 2-chloro-3,5-dinitrobenzotrifluoride. After the solution was further stirred at room temperature for 3 hours, the solvent was distilled away under reduced pressure. After addition of cooled dilute hydrochloric acid thereto, the residue was extracted with 100 ml of ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate and then the solvent was distilled away under reduced pressure to form a crude product. This crude product was recrystallized from a mixed solvent of chloroform and petroleum ether to obtain 0.77 g of the objective compound.

reactant | 6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.0 g | FC(C1=CC(NC(N1)=O)=O)(F)F | C5H3F3N2O2
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 1.89 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2,4-dinitro-6-trifluoromethylphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.77 g | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)N1C(NC(C=C1C(F)(F)F)=O)=O | C12H4F6N4O6
